US04914207
Benzimidazol-2-ylthioacetamide
Using the procedure of Preparation A3, 2.0 g of 2-benzimidazoleacetonitrile and 2.3 ml of diethyl dithiophosphate in 10 ml of dimethylformamide gave 150 mg of the titled compound.

reactant | 2-benzimidazoleacetonitrile | 2.0 g | N1=C(NC2=C1C=CC=C2)CC#N | C9H7N3
reactant | diethyl dithiophosphate | 2.3 ml | P(=S)(SCC)(OCC)[O-]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | Benzimidazol-2-ylthioacetamide | 150 mg | N1=C(NC2=C1C=CC=C2)CC(=S)N | C9H9N3S
